US08633173B2
203 a) To a solution of 4-(3-nitro-phenyl)-3,6-dihydro-2H-pyridine-1-carboxylic acid tert-butyl ester (0.50 g, 1.6 mmol) in dichloromethane (3 mL) was added trifluoroacetic acid (1.2 mL, 16 mmol). The mixture was stirred at room temperature for 2 hours then the volatiles were evaporated. The residue was dissolved in N,N-dimethylformamide (5 mL). Cesium carbonate (0.60 g, 1.8 mmol), sodium iodide (25.0 mg, 0.167 mmol) and 1-chloro-2-methanesulfonyl-ethane (0.26 g, 1.8 mmol) were added. The mixture was heated at 50° C. for 18 hours then cooled to room temperature and water (30 mL) was added. The mixture was extracted with ethyl acetate (3×20 mL). The combined organic layers were washed with water (2×20 mL) and saturated aqueous sodium chloride (20 mL), dried over magnesium sulfate, filtered and evaporated. 1-(2-Methanesulfonyl-ethyl)-4-(3-nitro-phenyl)-1,2,3,6-tetrahydro-pyridine was isolated as an orange viscous oil (0.381 g, 75%). 1H NMR (400 MHz, CDCl3, δ, ppm): 8.23 (s, 1H), 8.11 (d, J=8.0 Hz, 1H), 7.70 (d, J=8.0 Hz, 1H), 7.50 (t, J=8.0 Hz, 1H), 6.23 (s, 1H), 3.27 (s, 2H), 3.23 (t, J=6.5 Hz, 2H), 3.07-3.01 (m, 5H), 2.82 (t, J=5.5 Hz, 2H), 2.61 (br s, 2H). MS=311 (MH)+.

reactant | 4-(3-nitro-phenyl)-3,6-dihydro-2H-pyridine-1-carboxylic acid tert-butyl ester | 1.6 mmol, 0.50 g | C(C)(C)(C)OC(=O)N1CCC(=CC1)C1=CC(=CC=C1)[N+](=O)[O-] | C16H20N2O4
reactant | trifluoroacetic acid | 16 mmol, 1.2 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | Cesium carbonate | 1.8 mmol, 0.60 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | sodium iodide | 0.167 mmol, 25.0 mg | [I-].[Na+]
reactant | 1-chloro-2-methanesulfonyl-ethane | 1.8 mmol, 0.26 g | ClCCS(=O)(=O)C | C3H7ClO2S
solvent | dichloromethane | 3 mL | ClCCl | CH2Cl2
solvent | water | 30 mL | O | H2O
product | 1-(2-Methanesulfonyl-ethyl)-4-(3-nitro-phenyl)-1,2,3,6-tetrahydro-pyridine | CS(=O)(=O)CCN1CCC(=CC1)C1=CC(=CC=C1)[N+](=O)[O-] | C14H18N2O4S
